US04980470
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (200 mg), anhydrous piperazine (180 mg) and anhydrous dimethyl sulfoxide (DMSO; 3 ml) was stirred for 2.5 hours at 70° to 80° C. on an oil bath. The reacting mixture was concentrated under reduced pressure and cold water was added to the residue. The precipitate was collected by filtration and recrystallized from a mixed solution of dichloromethane-methanol (1:1) to give the title compound (40 mg) as pale yellow prisms, mp 187° C. (decompd.).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | piperazine | 180 mg | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 40 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCNCC1)F)=O)C(=O)O | C18H20FN3O4
